US07504408B2
N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6,7-dimethoxyquinazolin-4-amine
A solution of sodium bis(trimethylsilyl)amide (1.5 ml) in tetrahydrofuran (1.0M, 1.5 mmol) was added dropwise to an ice-cold solution of 4-chloro-6,7-dimethoxyquinazoline (0.15 g, 0.7 mmol) and 5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine (0.176 g, 0.7 mmol) in dimethylformamide (4 ml). The mixture was allowed to warm to room temperature over 2 hours. A saturated solution of ammonium chloride was added and the mixture was partitioned between water and dichloromethane. The organic layer was separated, washed with a saturated solution of sodium chloride, dried over magnesium sulfate and evaporated under reduced pressure. Flash chromatography on silica eluting with a mixture of 3-10% methanol in dichloromethane gave the product as a solid (0.118 g, 60%).

reactant | sodium bis(trimethylsilyl)amide | 1.5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 1.5 mmol, 1.0M | O1CCCC1 | C4H8O
reactant | 4-chloro-6,7-dimethoxyquinazoline | 0.7 mmol, 0.15 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine | 0.7 mmol, 0.176 g | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)N | C11H10ClNO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6,7-dimethoxyquinazolin-4-amine | 0.118 g, 60% | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OC | C21H18ClN3O5
